US09226501B2
Preparation of (R)-2-Amino-3-methyl-N-(2,2,2-trifluoroethyl)butanamide
A Parr shaker flask charged with (R)-benzyl (3-methyl-1-oxo-1-((2,2,2-trifluoroethyl)amino)-butan-2-yl)carbamate (4.95 g, 14.9 mmol) in 100 mL of EtOAc and 25 mL of EtOH was treated with 175 mg of 10% Pd/C. The mixture was placed under 40 psi of hydrogen and shaken for 6 h. An additional 65 mg of 10% Pd/C was added to the reaction mixture which was then placed under 40 psi of hydrogen and shaken for 3.5 h. The reaction solution was then filtered through a pad of celite, concentrated in vacuo and purified by sublimation (75 to 85° C., 200-230 millibar) to afford the title compound as a white solid (1.92 g, 65%): mp 43-47° C.; 1H NMR (400 MHz, CDCl3) δ 8.04-7.74 (m, 1H), 3.92 (ddd, J=16.0, 9.3, 6.8 Hz, 1H), 3.84-3.60 (m, 1H), 3.23 (d, J=3.8 Hz, 1H), 2.23 (ddd, J=10.7, 7.0, 3.5 Hz, 1H), 0.92 (d, J=7.0 Hz, 3H), 0.75 (d, J=6.9 Hz, 3H); 19F NMR (376 MHz, CDCl3) δ −72.70.

reactant | (R)-benzyl (3-methyl-1-oxo-1-((2,2,2-trifluoroethyl)amino)-butan-2-yl)carbamate | 14.9 mmol, 4.95 g | CC([C@H](C(NCC(F)(F)F)=O)NC(OCC1=CC=CC=C1)=O)C | C15H19F3N2O3
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd/C | 175 mg | [Pd] | Pd
catalyst | Pd/C | 65 mg | [Pd] | Pd
product | (R)-2-Amino-3-methyl-N-(2,2,2-trifluoroethyl)butanamide | 1.92 g, 65% | N[C@@H](C(=O)NCC(F)(F)F)C(C)C | C7H13F3N2O
